US07125876B2
A mixture of 2-(2,4-dichlorophenyl)benzoxazol-5-ol (6.0 g, 36 mmol), (S)-(+)-epichlorohydrin (3.3 g, 315 mmol) (20 ml, 182 mmol), and potassium carbonate (20 g, 144 mmol) in acetone (100 ml) was heated to reflux and allowed to stir overnight. The solution was allowed to cool and filtered through Celite 512. The filtrate was evaporated under reduced pressure to yield an oil, which was chromatographed on silica gel, eluting with 20% ethyl acetate/hexanes, to yield 5-[((2R)oxiran-2-yl)methoxy]-2-(2,4-dichlorophenyl)benzoxazole as white solid (6.2 g, 28 mmol).

reactant | 2-(2,4-dichlorophenyl)benzoxazol-5-ol | 36 mmol, 6.0 g | ClC1=C(C=CC(=C1)Cl)C=1OC2=C(N1)C=C(C=C2)O | C13H7Cl2NO2
reactant | (S)-(+)-epichlorohydrin | 315 mmol, 20 ml, 3.3 g | C(Cl)[C@@H]1CO1 | C3H5ClO
reactant | potassium carbonate | 144 mmol, 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 5-[((2R)oxiran-2-yl)methoxy]-2-(2,4-dichlorophenyl)benzoxazole | 28 mmol, 6.2 g | O1[C@H](C1)COC=1C=CC2=C(N=C(O2)C2=C(C=C(C=C2)Cl)Cl)C1 | C16H11Cl2NO3
